US07915271B2
Methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′ methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-2-carboxylate (50 mg, 0.07 mmol), aqueous potassium hydroxide (1.1 mL, 3M, 3.3 mmol), water (1.5 mL) and ethanol (3.6 mL) were stirred at 20° C. for 23 hours. The reaction mixture was acidified by HCl (aq., 1N). Volatiles were removed under reduced pressure. The resulting mixture was worked up with ethyl acetate, washed with brine. The combined organic extracts were dried over Na2SO4, filtered, and concentrated to an oil. This oil was purified by a reverse-phase preparative HPLC (column: Kromasil 100-5C18, 100×21.1 mm) eluting with a MeCN (0.1% v/v TFA buffered)/H2O (0.1% v/v TFA buffered) gradient mixture to afford 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-2-carboxylic acid. LCMS calc.=697.15; found=698.16 (M+1)+. 1H NMR signals are doubled because of atropisomerism 1H NMR (CDCl3, 500 MHz) δ 7.94 (t, J=7.0 Hz, 1H), 7.85 (d, J=7.0 Hz, 1H), 7.68-7.63 (m, 2.5H), 7.63-7.59 (m, 1.5H), 7.59-7.54 (m, 1H), 7.47-7.35 (m, 4H), 7.14 (dd, J=8.0, 2.0 Hz, 1H), 7.04 (d, J=8.5 Hz, 1H), 5.53 (d, J=8.0 Hz, 0.4H), 5.42 (d, J=8.0 Hz, 0.6H), 5.02 (d, J=15.5 Hz, 0.6H), 4.85 (d, J=15.5 Hz, 0.4H), 4.11-4.02 (m, 0.4H), 3.87-3.77 (m, 3.6H), 0.99 (d, J=6.5 Hz, 0.6H), 0.93 (d, J=7.0 Hz, 0.4H), 0.58 (d, J=7.0 Hz, 1.2H), 0.54 (d, J=6.5 Hz, 1.8H).

reactant | Methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′ methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-2-carboxylate | 0.07 mmol, 50 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C=1C(=CC=CC1)C(=O)OC)C)(F)F | C35H26F9NO5
reactant | potassium hydroxide | 3.3 mmol, 3M, 1.1 mL | [OH-].[K+]
reactant | water | 1.5 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 3.6 mL | C(C)O | C2H6O
product | 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-2-carboxylic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C=1C(=CC=CC1)C(=O)O)C)(F)F | C34H24F9NO5
